US07307075B2
(R)-6-Methyl-4-[2-methyl-3-(4-propoxypiperidin-1-yl)-propyl]-4H-benzo[1,4]oxazin-3-one (101IS69)
Crude (S)-4-(3-iodo-2-methylpropyl)-6-methyl-4H-benzo[1,4]oxazin-3-one (0.23 g), 4-propyloxypiperidine (0.12 g, .81 mmol) and Et3N (0.5 mL) were reacted according to GP17. Flash CC (SiO2; CH2Cl2/acetone/MeOH 90:5:5) gave the title compound (0.20 g, 83%). 1H NMR (CD3OD) δ 6.97 (brs, 1H), 6.79 (d, J=8.0 Hz, 1H), 6.75 (dm, J=8.0 Hz, 1H), 4.47 (brs, 2H), 3.97 (dd, J=6.4, 14.4 Hz, 1H), 8.82 (dd, J=7.2, 14.4 Hz, 1H), 3.44 (brs, 1H), 3.33 (t, J=6.8 Hz, 2H), 3.10-2.90 (m, 2H), 2.90-2.6 (m, 3H), 2.29 (m, 1H), 2.24 (s, 3H), 1.98-1.86 (m, 2H), 1.78-1.64 (m, 2H), 1.47 (tq, J=14.4, 7.2 Hz, 2H), 0.92 (d, J=6.4 Hz), 0.83 (t, J=7.2 Hz); 13C NMR (CD3OD) δ 166.4, 143.8, 132.8, 128.3, 124.7, 116.7, 116.1, 69.9, 67.4, 61.5, 50.7, 50.5, 44.1, 28.9, 28.6, 23.0, 20.0 15.6, 9.8.

reactant | (S)-4-(3-iodo-2-methylpropyl)-6-methyl-4H-benzo[1,4]oxazin-3-one | 0.23 g | IC[C@H](CN1C(COC2=C1C=C(C=C2)C)=O)C | C13H16INO2
reactant | 4-propyloxypiperidine | .81 mmol, 0.12 g | C(CC)OC1CCNCC1 | C8H17NO
reactant | Et3N | 0.5 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 acetone MeOH | C(Cl)Cl.CC(=O)C.CO
product | (R)-6-Methyl-4-[2-methyl-3-(4-propoxypiperidin-1-yl)-propyl]-4H-benzo[1,4]oxazin-3-one | 0.20 g, 83% | CC=1C=CC2=C(N(C(CO2)=O)C[C@@H](CN2CCC(CC2)OCCC)C)C1 | C21H32N2O3
